US08937091B2
1-(3-chloropropionyl)-4-methylbenzene 8179
2-chloroethylpropionyl chloride (0.63 g), toluene (0.885 g), and aluminium chloride (0.8 g) were reacted in nitrobenzene (1 mL) at 0° C., followed by treatment with hydrochloric acid to obtain the title compound (0.25 g).

reactant | 2-chloroethylpropionyl chloride | 0.63 g | ClCCCCC(=O)Cl | C5H8Cl2O
reactant | toluene | 0.885 g | C1(=CC=CC=C1)C | C7H8
reactant | aluminium chloride | 0.8 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | Cl | ClH
reactant | nitrobenzene | 1 mL | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | 1-(3-chloropropionyl)-4-methylbenzene | 0.25 g | ClCCC(=O)C1=CC=C(C=C1)C | C10H11ClO
